US07625886B2
7g) (R)-1-methoxycarbonyl-2-(2-methoxy-7-methyl-1H-benzimidazol-5-yl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
A solution of 1.00 g (2.02 mmol) (R)-2-(3,4-diamino-5-methyl-phenyl)-1-methoxycarbonyl-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate and 2.00 mL (15.01 mmol) tetramethoxymethane in 20 mL MeOH was refluxed for 1 h in the presence of 40 mg (0.21 mmol) toluenesulphonic acid hydrate. The mixture was evaporated down i.vac. and the residue was purified by chromatography (Alox, activity grade II-III, DCM/MeOH 20:1).

reactant | (R)-2-(3,4-diamino-5-methyl-phenyl)-1-methoxycarbonyl-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 2.02 mmol, 1.00 g | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C(=C1)C)N)N)C(=O)OC)C=CC=C2 | C26H33N5O5
reactant | tetramethoxymethane | 15.01 mmol, 2.00 mL | COC(OC)(OC)OC | C5H12O4
reactant | toluenesulphonic acid hydrate | 0.21 mmol, 40 mg | O.C=1(C(=CC=CC1)S(=O)(=O)O)C
solvent | MeOH | 20 mL | CO | CH4O
product | (R)-1-methoxycarbonyl-2-(2-methoxy-7-methyl-1H-benzimidazol-5-yl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC3=C(NC(=N3)OC)C(=C1)C)C(=O)OC)C=CC=C2 | C28H33N5O6
